US06265572B1
In a dry two-necked flask equipped with dropping funnel and thermometer was added 3(R)-[(2S,5R)-2,5-dihydro-3,6-dimethoxy-5-(1-methylethyl)-2-pyrazinyl]-3-(4-methoxyphenyl)propanoic acid methyl ester (17.5 g, 46.48 mmol) and 559 mL of dry THF. The solution was then cooled to −10° C. in an acetone-ice bath under argon. To the solution was added dropwise a solution of lithium aluminum hydride in THF (0.8 M, 60 mL, 48 mmol) at a rate so as to maintain the internal temperature below 0° C. After the addition, the ice bath was removed, and reaction mixture was stirred at room temperature for 2 hours. The reaction was quenched by the addition of 10 mL of ethyl acetate followed by 25 mL of saturated sodium sulfate solution. The resulting white precipitate was filtered and was washed with ethyl acetate (4×100 mL). The combined filtrate was then concentrated to give 3(R)-[(2S,5R)-2,5-dihydro-3,6-dimethoxy-5-(1-methylethyl)-2-pyrazinyl]-3-(4-methoxyphenyl)propanol, as a colorless oil (17.7 g). TLC (Rf: 0.5, ethyl acetate/hexane=1:1) single spot.

reactant | 3(R)-[(2S,5R)-2,5-dihydro-3,6-dimethoxy-5-(1-methylethyl)-2-pyrazinyl]-3-(4-methoxyphenyl)propanoic acid methyl ester | 46.48 mmol, 17.5 g | COC(C[C@H](C1=CC=C(C=C1)OC)[C@@H]1N=C([C@H](N=C1OC)C(C)C)OC)=O | C20H28N2O5
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 559 mL | C1CCOC1 | C4H8O
solvent | THF | 48 mmol, 0.8 M, 60 mL | C1CCOC1 | C4H8O
product | 3(R)-[(2S,5R)-2,5-dihydro-3,6-dimethoxy-5-(1-methylethyl)-2-pyrazinyl]-3-(4-methoxyphenyl)propanol | COC=1[C@@H](N=C([C@H](N1)C(C)C)OC)[C@H](CCO)C1=CC=C(C=C1)OC | C19H28N2O4
